US09034880B2
Preparation of 8-Ethyl-2-methyl-5-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 358)
To a solution of 8-Ethyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.107 g. 0.0005 mol) in N-methyl 2-pyrolidone (2.0 mL) was added powdered potassium hydroxide (0.224 g, 0.004 mol) and allowed to stir for 10 min at RT. 2-trifluoromethyl-5-vinyl pyridine (0.095 g, 0.00055 mol) was added and stirred for further 1 h. at 60 deg C., After completion of TLC, Reaction mixture was diluted with brine (5 mL) and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (4% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to provide the desired compound as brown oil (0.11 g, 57% yield). 8-Ethyl-2-methyl-5-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.1 g, 0.000258 mol) was dissolved in THF (2.0 mL). A solution of oxalic acid dihydrate (0.032 g, 0.000258 mol) in THF (2 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as white solid (0.080 g, 65% yield).

reactant | 8-Ethyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.0005 mol, 0.107 g | C(C)C1=CC=2C3=C(NC2C=C1)CCN(C3)C | C14H18N2
reactant | potassium hydroxide | 0.004 mol, 0.224 g | [OH-].[K+]
reactant | 2-trifluoromethyl-5-vinyl pyridine | 0.00055 mol, 0.095 g | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
solvent | N-methyl 2-pyrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | brine | 5 mL | [Cl-].[Na+].O
product | 8-Ethyl-2-methyl-5-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.11 g, 57% yield | C(C)C1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C(F)(F)F)CCN(C3)C | C22H24F3N3
